US06992087B2
Preparation of 3,6-diethyl-N-(7-methoxy-1,2,3,4-tetrahydronaphthalen-1-yl)pyrazin-2-amine
Following the procedure for the preparation of (1R,2S)-1-[(3,6-diethylpyrazin-2-yl)amino]-2,3-dihydro-1H-inden-2-ol but substituting 7-methoxy-1,2,3,4-tetrahydronaphthalen-1-amine and making non-critical variations provided the title compound as a oil: 1H NMR (400 MHz, CDCl3) δ 7.67, 7.08, 6.92, 6.81, 5.42, 4.54, 3.75, 2.84-2.77, 2.68, 2.56, 2.10, 1.88, 1.36-1.27; (MS/CI) calcd for C19H25N3O+H 312.4, found 312.1.

reactant | (1R,2S)-1-[(3,6-diethylpyrazin-2-yl)amino]-2,3-dihydro-1H-inden-2-ol | C(C)C=1C(=NC(=CN1)CC)N[C@H]1[C@H](CC2=CC=CC=C12)O | C17H21N3O
reactant | 7-methoxy-1,2,3,4-tetrahydronaphthalen-1-amine | COC1=CC=C2CCCC(C2=C1)N | C11H15NO
product | 3,6-diethyl-N-(7-methoxy-1,2,3,4-tetrahydronaphthalen-1-yl)pyrazin-2-amine | C(C)C=1C(=NC(=CN1)CC)NC1CCCC2=CC=C(C=C12)OC | C19H25N3O
